US05021478
N-(2-Hydroxyphenyl)-N'-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)oxamid
The title compound is prepared by the reaction of diethyl oxalate with one equivalent each of 2-hydroxyaniline and of 4-amino-1-octyloxy-2,2,6,6-tetramethylpiperidine.

reactant | diethyl oxalate | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 2-hydroxyaniline | one equivalent | OC1=C(N)C=CC=C1 | C6H7NO
reactant | 4-amino-1-octyloxy-2,2,6,6-tetramethylpiperidine | NC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C17H36N2O
product | N-(2-Hydroxyphenyl)-N'-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)oxamid | OC1=C(C=CC=C1)NC(=O)C(=O)NC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C25H41N3O4
